US07371765B2
A solution of 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline (80 mg, 0.21 mmol) and 5-aminoindole (33 mg, 0.25 mmol) in 2-pentanol (2.5 ml) containing 6.2N HCl in isopropanol (40 μl) was heated at 120° C. for 3 hours. After cooling, the solid was collected by filtration, washed with isopropanol followed by ether and dried under vacuum to give 6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)-4-(indol-5-ylamino)quinoline hydrochloride (104 mg, 90%).

reactant | 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline | 0.21 mmol, 80 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCS(CC1)(=O)=O | C17H18ClN3O3S
reactant | 5-aminoindole | 0.25 mmol, 33 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | HCl | 6.2N | Cl | ClH
solvent | 2-pentanol | 2.5 ml | CC(CCC)O | C5H12O
solvent | isopropanol | 40 μl | C(C)(C)O | C3H8O
product | 6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)-4-(indol-5-ylamino)quinoline hydrochloride | 104 mg, 90% | Cl.C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCS(CC1)(=O)=O)NC=1C=C2C=CNC2=CC1 | InChI=1S/C25H25N5O3S.ClH/c26-17-19-15-21-23(29-20-2-3-22-18(14-20)4-6-27-22)5-7-28-24(21)16-25(19)33-11-1-8-30-9-12-34(31,32)13-10-30;/h2-7,14-16,27H,1,8-13H2,(H,28,29);1H
